US06933311B2
N-(2,3-dichlorobenzyl)-2-(5-isoquinolinyl)propanamide
The title compound was prepared using the procedure described in Example 222B using 2,3-dichlorobenzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 359 (M+H)+; MS (ESI−) m/z 357 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.54 (d, J 7.1, 3H), 4.20 (m, 2H), 4.53 (q, J 7.1, 1H), 7.17 (d, J 7.8, 1H), 7.26 (t, J 7.8, 1H), 7.52 (d, J 8.1, 1H), 7.78 (t, J 7.8, 1H), 7.91 (d, J 6.5, 1H), 8.16 (d, J 8.1, 1H), 8.24 (d, J 6.4, 1H), 8.59 (d, J 6.2, 1H), 8.66 (t, J 5.8, 1H), 9.50 (s, 1H).

reactant | 2,3-dichlorobenzylamine | ClC1=C(CN)C=CC=C1Cl | C7H7Cl2N
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-(2,3-dichlorobenzyl)-2-(5-isoquinolinyl)propanamide | ClC1=C(CNC(C(C)C2=C3C=CN=CC3=CC=C2)=O)C=CC=C1Cl | C19H16Cl2N2O
